US05795903
21.81 g of hydroxylamine hydrochloride are added to 17.61 g of potassium hydroxide in solution in 350 ml of methanol at a temperature in the region of 20° C. and the reaction mixture is brought to reflux for 10 minutes. 13.24 g of 2-chloro-6-(trifluoromethoxy)benzothiazole are then added and the reaction is continued at reflux for 5 hours. After cooling to a temperature in the region of 20° C., the precipitate formed is filtered off and the filtrate concentrated to dryness under reduced pressure (15 mm Hg, 2 kPa). The crude product thus obtained is purified by flash chromatography on a silica column, using an ethyl acetate/cyclohexane (20/80 by volume) mixture as eluent. 7.35 g of 2-hydroxyamino-6-(trifluoromethoxy)benzothiazole are thus isolated in the form of an orangey-yellow powder melting with decomposition at 119° C. [(Analysis % calculated C: 38.40, H: 2.01, F: 22.78, N: 11.20, S: 12.82; % found C: 38.7, H: 1.9, F: 22.3, N: 11.1, S: 12.6); 1H N.M.R. spectrum (250 MHz, d6-(CD3)2SO, at a temperature of 373 K, δ in ppm): 7.22 (mt, 2H, H 4 and H 5), 7.62 (broad s, 1H, H 7), 9.55 and from 9.50 to 11.00 (respectively broad s and unresolved peak, each 1H, NHOH)].

reactant | hydroxylamine hydrochloride | 21.81 g | Cl.NO
reactant | potassium hydroxide | 17.61 g | [OH-].[K+]
reactant | 2-chloro-6-(trifluoromethoxy)benzothiazole | 13.24 g | ClC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H3ClF3NOS
solvent | methanol | 350 ml | CO | CH4O
product | 2-hydroxyamino-6-(trifluoromethoxy)benzothiazole | 7.35 g | ONC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2O2S
